* POGO block-4 VCA — transimpedance I/V gives unity (−1) magnitude at 0 dB; input is virtual ground
* CLAIM (spec §2 "Audio path"; aux/vca/vca-cell/spec.md §Transfer Function; nets R7/R40, U4/U6):
*   The THAT2180 is current-in (pin1 Input ≈ virtual ground) / current-out (pin8 Output).
*   AUDIO_IN drives R_in (R7, 20k) into the input node:  I_in = AUDIO_IN / R_in.
*   At 0 dB the THAT2180 current gain is unity BY DEFINITION (Ec+=0), so I_out = I_in.
*   The I/V op-amp (U6, (+)=GND) sinks I_out through R_f (R40, 20k): AUDIO_OUT = −I_out·R_f.
*   Product = −(R_f/R_in) = −(20k/20k) = −1.0.  [NV]-FREE: this is a pure resistor RATIO — the
*   THAT2180 6.1 mV/dB constant CANCELS (unity current copy at 0 dB), so no device constant appears.
*   Also: pin1 is a current input held at the op-amp-less translinear cell's low-Z node; the I/V
*   op-amp (−) is a true virtual ground, so the input node sits ≈0 V → Z_in ≈ R_in = 20k.
* Ideal models (justification): the THAT2180 at 0 dB is an ideal current copy I_out=I_in=V(vca_in)/R_in
*   (Gcopy VCCS senses V(vca_in)/R_in and pushes that current into the I/V summing node) — this stands
*   in for the Blackmer cell whose 0-dB current gain is unity by definition (the law under test is the
*   R_f/R_in ratio, not the device). The I/V is an ideal high-gain op-amp (Eop) whose (+) is GND, so its
*   (−) node ivin is a virtual ground; vca_in is likewise held near 0 by the cell's low input impedance,
*   modeled here as a small Rsink to GND so the input node potential reads the virtual-ground condition.
* PARALLEL single instance (op point). The netlist_bind guards R7 (R_in) and R40 (R_f).
* R_in and R_f are single .param symbols used by BOTH the resistor element AND the current-copy
* B-source, so the deck's internal physics tracks one value (a Rin perturbation actually moves the
* gain — fixing the earlier "faked R_in" where Bcopy hardcoded /20e3 independent of the Rin element).

.param Rin=20k          ; R7 (must equal netlist R7 via the bind below)
.param Rf=20k           ; R40

Vaudio audio 0 DC 1

* R_in (R7): AUDIO_IN -> vca_in (THAT2180 current-input node).
Rin  audio vca_in {Rin}

* THAT2180 input node ≈ virtual ground: low input impedance to GND (translinear cell).
* Small Rsink (1 ohm) so vca_in sits ≈ 0 V — the current-input / virtual-ground condition.
Rsink vca_in 0 1

* THAT2180 at 0 dB = ideal current copy: I_out = I_in = V(vca_in)/R_in, pushed into ivin.
* Gcopy senses the input current I_in=(V(audio)-V(vca_in))/Rin and INJECTS it into the I/V
* summing node ivin. The op-amp then sinks it through R_f: AUDIO_OUT = −I_out·R_f.
Bcopy 0 ivin I = (V(audio)-V(vca_in))/{Rin}

* I/V op-amp (U6 half): (+) = GND (node 0), (−) = ivin (virtual ground). Out via R_f.
Eop  out 0 0 ivin 1e6
Rf   out ivin {Rf}       ; R_f (R40)

.control
  op
  let gain        = v(out)         ; DERIVED −(R_f/R_in) = −(20k/20k) = −1.0
  let vin_node_v  = v(vca_in)      ; DERIVED ≈ 0 V (current input -> virtual ground -> Z_in≈R_in)
  print gain vin_node_v
.endc
.end
